US05283247
2-Methyl-3-o-tolyl-7-amino-4-quinazolone (compound no. 14)
To a mixture of 2.0 g of iron powder (reduced) and 1.0 g 2-methyl-3-o-tolyl-7-nitro-4-quinazolone (0.0036 mole) in a test tube (8"×1") was added 2 ml of 1 N ammonium chloride and 8 ml ethanol. The mixture was warmed gently in a water bath until the initial vigorous reaction had subsided. The test tube was then heated in the water bath until the solvents had evaporated (about 1 hr). The residue was extracted with four 10 ml portions of benzene, and the extracts were suction-filtered. The filtrate was heated with stirring, and n-hexane was added to cloudiness. The suspension was placed in the refrigerator overnight, and the white crystals were removed by suction-filtration. The yield was 0.9 g (100%), mp 211°-212° C.

reactant | 2-methyl-3-o-tolyl-7-nitro-4-quinazolone | 0.0036 mole, 1.0 g | CC1=NC2=CC(=CC=C2C(N1C1=C(C=CC=C1)C)=O)[N+](=O)[O-] | C16H13N3O3
reactant | ammonium chloride | 1 N, 2 ml | [Cl-].[NH4+]
reactant | ethanol | 8 ml | C(C)O | C2H6O
catalyst | iron | 2.0 g | [Fe] | Fe
solvent | water | O | H2O
product | 2-Methyl-3-o-tolyl-7-amino-4-quinazolone | CC1=NC2=CC(=CC=C2C(N1C1=C(C=CC=C1)C)=O)N | C16H15N3O
